US06284894B1
To a solution of t-butylnitrite (119 μl, 1.0 mmol) and 3-bromocyclohexene (860 μl, 7.5 mmol) in CH3CN (0.5 ml), 3,5-dinitroaniline (92 mg, 0.5 mmol) was added during 10 minutes, while maintaining the temperature of the reaction mixture at 23-30° C. After stirring for one hour at room temperature the volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 23:2) followed by preparative HPLC gave 15 mg (12%) of 3-(3,5-dinitrophenyl)cyclohexene as bright yellow crystals. 1H NMR (CDCl3, 300 MHz) δ 8.90, (t, 1H, J=2.1 Hz), 8.42, (d, 2H, J=2.1 Hz), 6.19-6.06, (m, 1H), 5.74-5.66, (m, 1H), 3.67, (m, 1H), 2.25-2.07, (m, 3H), 1.80-1.51, (m, 3H).

reactant | t-butylnitrite | 1.0 mmol, 119 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | 3-bromocyclohexene | 7.5 mmol, 860 μl | BrC1C=CCCC1 | C6H9Br
reactant | 3,5-dinitroaniline | 0.5 mmol, 92 mg | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
solvent | CH3CN | 0.5 ml | CC#N | C2H3N
product | 3-(3,5-dinitrophenyl)cyclohexene | 15 mg, 12% | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1C=CCCC1 | C12H12N2O4
